US05059597
35.3 g of ethyl 2-(2,4-dichloro-3,6-difluorobenzoyl)-3-ethoxyacrylate are dissolved in 120 ml of ethanol, and 12.9 g of 2,4-difluoroaniline are added dropwise, while cooling with ice. The mixture is stirred at room temperature for 1.5 hours, 120 ml of water are added, while cooling, and the precipitate is filtered off with suction, rinsed with ethanol/H2O (1:1) and dried. 40.5 g of ethyl 2-(2,4-dichloro-3,6-difluorobenzoyl)-3-(2,4-difluorophenylamino)-acrylate are obtained, melting point: 84°-86° C.

reactant | ethyl 2-(2,4-dichloro-3,6-difluorobenzoyl)-3-ethoxyacrylate | 35.3 g | ClC1=C(C(=O)C(C(=O)OCC)=COCC)C(=CC(=C1F)Cl)F | C14H12Cl2F2O4
reactant | 2,4-difluoroaniline | 12.9 g | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | water | 120 ml | O | H2O
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | ethyl 2-(2,4-dichloro-3,6-difluorobenzoyl)-3-(2,4-difluorophenylamino)-acrylate | 40.5 g | ClC1=C(C(=O)C(C(=O)OCC)=CNC2=C(C=C(C=C2)F)F)C(=CC(=C1F)Cl)F | C18H11Cl2F4NO3
